US20010007873A1
Under a N2 atmosphere in 45 mL of anhydrous THF was added 6.27 g (14.81 mmol) of 2-benzyloxy-5-bromo-1-t-butyldimethylsilyloxy4-methoxybenzene. The solution was cooled to −78° C. and 6.52 mL (16.29 mmol) of a 2.5 M solution of butyl lithium was added dropwise while maintaining the temperature below −70° C. The reaction mixture was stirred at −78° C. for 1.0 hours at which point 2.77 mL (16.29 mmol) of triethyl borate was added. The reaction was allowed to stir at less than −60° C. for an additional 2.0 hours. The reaction mixture was allowed to warm to ambient temperature for 18 hours. and quenched with 20 mL of saturated NH4Cl. Water (10 mL) was added to this solution, the pH was adjusted to 3.0 with conc HCl and the resultant solution was extracted with ethyl acetate (2×50 mL). The ethyl acetate extract was washed with brine (1×100 mL), dried over sodium sulfate, filtered and concentrated in vacuo to yield 3.23 g (69%) of 4-benzyloxy-5-t-butyldimethylsilyloxy-2-methoxybenzene.-benzeneboronic acid as an off-white solid.

reactant | 2-benzyloxy-5-bromo-1-t-butyldimethylsilyloxy4-methoxybenzene | 14.81 mmol, 6.27 g | C(C1=CC=CC=C1)OC1=C(C=C(C(=C1)OC)Br)O[Si](C)(C)C(C)(C)C | C20H27BrO3Si
reactant | butyl lithium | C(CCC)[Li]
reactant | triethyl borate | 16.29 mmol, 2.77 mL | B(OCC)(OCC)OCC | C6H15BO3
solvent | THF | 45 mL | C1CCOC1 | C4H8O
product | 4-benzyloxy-5-t-butyldimethylsilyloxy-2-methoxybenzene | 3.23 g, 69% | C(C1=CC=CC=C1)OC1=CC(=CC=C1O[Si](C)(C)C(C)(C)C)OC | C20H28O3Si
